US05420275
3,4-Diethoxycarbonyl-6-(4-methoxyethoxymethoxyphenyl)-2-pyridone.
In 250 ml of 1N hydrochloric acid and 100 ml of dioxane was dissolved 32.2 g of 2-amino-3,4-diethoxycarbonyl-6-(4-methoxyethoxymethoxyphenyl)pyridine, whereto a solution of 6.9 g (1.3 eq.) of sodium nitrite dissolved in 30 ml of water was added dropwise under ice-cooling. The mixture was stirred for 1 hour and left standing in a refrigerator overnight. The mixture was neutralized with sodium hydrogencarbonate, and dioxane was distilled off, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried. Then, the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent:dichloromethane→ethyl acetate).

reactant | 2-amino-3,4-diethoxycarbonyl-6-(4-methoxyethoxymethoxyphenyl)pyridine | 32.2 g | NC1=NC(=CC(=C1C(=O)OCC)C(=O)OCC)C1=CC=C(C=C1)OCOCCOC | C21H26N2O7
reactant | sodium nitrite | 6.9 g, 1.3 eq. | N(=O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 1N, 250 ml | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 3,4-Diethoxycarbonyl-6-(4-methoxyethoxymethoxyphenyl)-2-pyridone | C(C)OC(=O)C=1C(NC(=CC1C(=O)OCC)C1=CC=C(C=C1)OCOCCOC)=O | C21H25NO8
